US07989454B2
To a solution of 4-[3-[6-(tert-butyl-dimethyl-silanyloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (0.837 mmol, 438 mg) in THF (12 mL) was added a solution of n-tetrabutyl ammonium fluoride (1.25 mmol, 1.25 mL, 1.0M) in THF at 0° C. Then, the resulting colorless solution was allowed to warm to room temperature in 2 h and the mixture was stirred for another 2 h at room temperature before being diluted with water (˜50 mL). The organic compound was extracted into ethyl acetate (2×50 mL) and the combined extracts were washed with brine solution (100 mL). The organic solution was dried over anhydrous magnesium sulfate and the filtrate was removed under vacuum after filtration of the drying agent. The crude residue was dried further under high vacuum and the desired 4-[2-(2-ethoxycarbonyl-ethyl)-3-(6-hydroxy-hexyl)-phenoxy]-butyric acid ethyl ester (342 mg, 99%) was isolated as a colorless oil: ES(+)-HRMS m/e calculated for C23H36O6 (M+Na)+ 431.2404, found 431.2404.

reactant | 4-[3-[6-(tert-butyl-dimethyl-silanyloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 0.837 mmol, 438 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCO[Si](C)(C)C(C)(C)C)CCC(=O)OCC)=O | C29H50O6Si
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | ˜50 mL | O | H2O
product | 4-[2-(2-ethoxycarbonyl-ethyl)-3-(6-hydroxy-hexyl)-phenoxy]-butyric acid ethyl ester | 342 mg, 99% | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCO)CCC(=O)OCC)=O | C23H36O6
